US04448783
3-Formamido-1-(3-trifluoromethylphenyl)-2-pyrazoline (2.4 g) was stirred with dry diethyl ether (60 ml) to produce a slurry which was gradually added to a stirred ice-cold suspension of lithium aluminum hydride (1.0 g) in dry diethyl ether (75 ml) under a nitrogen atmosphere. The addition took place over a period of about 20 minutes and was accompanied by a vigorous reaction. The final reaction mixture was stirred for a further 15 minutes and was then carefully and slowly decomposed by the addition of water (30 ml). The ethereal layer was then decanted off the aqueous sludge which was washed twice with diethyl ether. The combined ethereal solutions were dried over potassium carbonate, filtered and evaporated. The resulting 3-methylamino-1-(3-trifluoromethylphenyl)-2-pyrazoline was obtained as a colourless crystalline solid on trituration with benzene and recrystallization from light petroleum, yield 1.8 g, m.p. 93.1°. The hydrochloride was recrystallized by precipitation from methanol with ether and light petroleum m.p. 206°-207°.

reactant | 3-Formamido-1-(3-trifluoromethylphenyl)-2-pyrazoline | 2.4 g | C(=O)NC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C11H10F3N3O
reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 30 ml | O | H2O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 3-methylamino-1-(3-trifluoromethylphenyl)-2-pyrazoline | CNC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C11H12F3N3
